US05600007
0.8 g (3.5 mmol) of 3-ethylbenzothiazolium bromide and triethylamine are added to a mixture of 35 mmol of 9-(4'- formylbenzylidene)-8-ketotricyclo[5.2.1.02.6 ]decane (prepared from 8-ketotricyclo[5.2.1.02.6 ]decane and terephthaldehyde di ethyl acetal (sic) in the presence of sodium methylate and subsequent acetal cleavage) and 1.2 g of paraformaldehyde in 70 ml of ethanol, and the mixture is heated under reflux. After working up analogously to Example 1, 9-(4'-(2"-hydroxy1"-oxoethyl)-benzylidene)-8-ketotricyclo[5.2.1.02.6 ]decane is obtained. The spectra correspond to the expected compound.

reactant | 3-ethylbenzothiazolium bromide | 3.5 mmol, 0.8 g | [Br-].C(C)[N+]1=CSC2=C1C=CC=C2
reactant | 9-(4'- formylbenzylidene)-8-ketotricyclo[5.2.1.02.6 ]decane | 35 mmol | C(=O)C1=CC=C(C=C2C(C3C4CCCC4C2C3)=O)C=C1 | C18H18O2
reactant | 8-ketotricyclo[5.2.1.02.6 ]decane | O=C1C2C3CCCC3C(C1)C2 | C10H14O
reactant | sodium methylate | C[O-].[Na+]
reactant | paraformaldehyde | 1.2 g | C=O | CH2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 9-(4'-(2"-hydroxy1"-oxoethyl)-benzylidene)-8-ketotricyclo[5.2.1.02.6 ]decane | OCC(=O)C1=CC=C(C=C2C(C3C4CCCC4C2C3)=O)C=C1 | C19H20O3
